US07888364B2
4 g of 4-bromo-2-methylbenzonitrile was used in Procedure Q with ethanethiol to afford 4-(ethylthio)-2-methylbenzonitrile. 2 g of 4-(ethylthio)-2-methylbenzonitrile was reacted via Procedure R to give 4-(ethylsulfonyl)-2-methylbenzonitrile. 2.5 g of 4-(ethylsulfonyl)-2-methylbenzonitrile was reacted via Procedure T to give 4-(ethylsulfonyl)-2-methylbenzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(ethylsulfonyl)-2-methylbenzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(ethylsulfonyl)-2-methylbenzamide. MS (Q1) 415.0 (M)+.

reactant | 4-bromo-2-methylbenzonitrile | 4 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | ethanethiol | C(C)S | C2H6S
product | 4-(ethylthio)-2-methylbenzonitrile | C(C)SC1=CC(=C(C#N)C=C1)C | C10H11NS
